US04069240
A mixture of 17.9 g. (0.10 mole) of ethyl N-methylcarbanilate, 100 ml. of 2-propanol, and 2.4 g. of 5% Rh on carbon was added to a 300 ml. Magne Drive autoclave. The vessel was sealed, purged first with nitrogen and then with hydrogen, and pressured with hydrogen to 600 psig. The autoclave was agitated at 30°-40° and 500-800 psig for 0.3 hr., when gas absorption stopped. The reaction product was removed and filtered through Celite filter aid to remove the catalyst. Most of the solvent was removed on a rotary evaporator under vacuum. Distillation gave a quantitative yield of ethyl N-methylcyclohexylcarbamate, b.p. 78°-82° at 2 mm., mostly 81°-2° at 2 mm. An elemental analysis was obtained on a middle cut from the distillation. Anal. Calcd. for C10H19O2N: C, 64.83; H, 10.34; N, 7.56. Found: C, 64.73; H, 10.32; N, 7.44.

reactant | ethyl N-methylcarbanilate | 0.10 mole | CN(C(OCC)=O)C1=CC=CC=C1 | C10H13NO2
catalyst | Rh on carbon | [Rh] | Rh
solvent | 2-propanol | CC(C)O | C3H8O
product | ethyl N-methylcyclohexylcarbamate | quantitative yield | CN(C(OCC)=O)C1CCCCC1 | C10H19NO2
